US06648954B2
Benzimidazolone Pigment
130 g of the aqueous dispersion of the pigment derivative (a) and 30 g of deionized water were mixed with 20 g of C.I. pigment yellow 151 having an average primary particle diameter of 80 nm (in which the content of metal ions having a valence of at least 2 was 270 ppm), a 1% sodium hydroxide aqueous solution was added so as to adjust the pH of a mixture liquid to 9.0, and the mixture liquid was dispersed with a paint shaker in the presence of zirconia beads as media for approximately 5 hours, to obtain a water-based pigment dispersion. In the water-based pigment dispersion, the neutralizatior rate of the sulfonic acid group of the pigment derivative (a) was 80%. Further, the obtained water-based pigment dispersion was diluted so as to have a concentration of 3% by weight, and the diluted water-based pigment dispersion was dropped to NO.2 filter paper, to show no bleedings.

reactant | C.I. pigment yellow 151 | 20 g | CC(=O)C(C(=O)NC1=CC2=C(C=C1)NC(=O)N2)N=NC3=CC=CC=C3C(=O)O | C18H15N5O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 30 g | O | H2O
product | Benzimidazolone | N=1C(N=C2C1C=CC=C2)=O | C7H4N2O
